US05629430
In 4 ml of methanol, was suspended 225 mg (0.4 mmol) of methyl 1-acetoxymethyl-5-benzyloxy-3-t-butoxycarbonyl-7-trifluoromethyl-1,2,3,6-tetrahydropyrrolo[3,2-e]indole-8-carboxylate. Thereto 110.6 mg (0.8 mmol) of potassium carbonate was added, and the mixture was stirred for 7 hours. It was neutralized with 10% citric acid, and diluted with water. The precipitated crystalline matter was collected by filtration, washed with water, and dried. Thereby, methyl 5-benzyloxy-3-t-butoxycarbonyl-1-hydroxymethyl-7-trifluoromethyl-1,2,3,6-tetrahydropyrrolo[3,2-e]indole-8-carboxylate was prepared in a colorless crystalline state in a yield of 206.5 mg (99%).

reactant | methyl 1-acetoxymethyl-5-benzyloxy-3-t-butoxycarbonyl-7-trifluoromethyl-1,2,3,6-tetrahydropyrrolo[3,2-e]indole-8-carboxylate | 0.4 mmol, 225 mg | C(C)(=O)OCC1CN(C=2C1=C1C(=C(NC1=C(C2)OCC2=CC=CC=C2)C(F)(F)F)C(=O)OC)C(=O)OC(C)(C)C | C28H29F3N2O7
reactant | potassium carbonate | 0.8 mmol, 110.6 mg | C([O-])([O-])=O.[K+].[K+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | methanol | 4 ml | CO | CH4O
solvent | water | O | H2O
product | methyl 5-benzyloxy-3-t-butoxycarbonyl-1-hydroxymethyl-7-trifluoromethyl-1,2,3,6-tetrahydropyrrolo[3,2-e]indole-8-carboxylate | C(C1=CC=CC=C1)OC=1C=C2C(=C3C(=C(NC13)C(F)(F)F)C(=O)OC)C(CN2C(=O)OC(C)(C)C)CO | C26H27F3N2O6
